US08455507B2
Method I: 1-methyl-2-(trifluoromethyl)-1H-benzo[d]imidazol-6-amine
A 250 ml round bottomed flask was charged with 1-methyl-6-nitro-2-(trifluoromethyl)-1H-benzo[d]imidazole (6 g, 24 mmol) and concentrated HCl (40 ml). Once the solution has become clear, water (˜15 ml) was added until the solution just started to become cloudy. SnCl4 (27 g, 120 mmol) was added in portions over 5 minutes (caution exotherm!). Initial exotherm caused the temperature to rise to 60° C. The reaction mixture was stirred and allowed to cool down to room temperature. After 1 hour, the reaction mixture was diluted with water (100 ml), basified with 1M NaOH and extracted twice with ethyl acetate. The organic layers were combined, washed with brine, dried over magnesium sulfate and concentrated in vacuo to afford the title compound as a dark coloured solid. (5 g, 100% yield). 1H NMR (DMSO D6, 400 MHz) 3.75 (3H, s), 4.6 (2H, br s), 6.65 (1H, s), 6.7 (1H, d), 7.75 (1H, d); MS (ES+) 215.

reactant | 1-methyl-6-nitro-2-(trifluoromethyl)-1H-benzo[d]imidazole | 24 mmol, 6 g | CN1C(=NC2=C1C=C(C=C2)[N+](=O)[O-])C(F)(F)F | C9H6F3N3O2
reactant | HCl | 40 ml | Cl | ClH
reactant | SnCl4 | 120 mmol, 27 g | Cl[Sn](Cl)(Cl)Cl
reactant | NaOH | 1M | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | ˜15 ml | O | H2O
product | 1-methyl-2-(trifluoromethyl)-1H-benzo[d]imidazol-6-amine | 100% yield | CN1C(=NC2=C1C=C(C=C2)N)C(F)(F)F | C9H8F3N3
